Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
sore throat, dyspnea 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with no PMHx presents for evaluation of sore throat, SOB
and near-syncopal events. She reports acute onset of sore throat
on ___, this was associated with subjective fevers,
non-productive cough, SOB with exertion and chest tightness. She
was seen at her school clinic and underwent gonorrhea
oropharyngeal swab and received 60 mg PO prednisone. Today she
was falling asleep in class and felt lightheaded (denies any
syncopal events), given the persistence of her symptoms the
school clinic sent her to the ED for evaluation. 
 
In the ED, initial VS were 98.0 81 133/61 18 98% on RA.
Exam notable for tonsillar exudate with significant swelling
bilaterally but no exudates noted. 
Labs notable for WBC of 13.1, H/H of 13.9/43.9, Plt 290. 
She received IV dexamethasone, PO azithromycin and IV
ceftriaxone.  Se also received 1L LR and IV ketorolac.

Upon arrival to the floor, the patient tells the story as
follows. She reports on ___ she developed very severe sore
throat and associated fevers with a measured T of 100*F. She 
felt
lightheaded as if she was going to pass out while sitting in
class which prompted her to be evaluated in her ___ health
clinic. She was evaluated in the ___ health clinic where a
rapid strep test was negative. She received 60 mg prednisone and
no antibiotics. She was treated with ibuprofen. She then spent
the majority of ___ in the ___ health clinic where she
was being observed with rest for improvement in her symptoms. On
the day of presentation to our ED, she developed significant
dyspnea with exertion, only able to climb a few single steps
before panting. She also endorsed chest pain  which she 
describes
as a chest pressure. She felt like she was unable to inhale
deeply. She endorses ongoing night sweats. 

Of note, the patient is feeling very anxious about an 
interaction
she had with another health care provider. She has had multiple
new sexual partners and feels "terrified" she may have an STD.
She felt that a previous provider tried to scare her regarding
legal implications of having an STD and spreading it to someone
else. She understands that an IUD only prevents pregnancy and
does not prevent STDs. She denies abnormal vaginal discharge,
vaginal pain, vaginal itchiness, or vaginal discharge with 
blood.
She denies abdominal pain.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
None
 
Social History:
___
Family History:
DM in maternal grand father
 
Physical ___:
VITALS:  98 PO  120/78  78  18  97%  RA  0  0  ___  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist
Tonsils swollen, not touching, without clear exudate
Neck supple, bilateral tenderness along the anterior cervical
chain without clear lymphadenopathy, unilateral tenderness along
left SCM muscle
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally, no inspiratory or expiratory wheezes
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

PHYSICAL EXAM ON DISCHARGE: 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist
Tonsils swollen, not touching, without clear exudate
Neck supple, bilateral tenderness along the anterior cervical
chain without clear lymphadenopathy, unilateral tenderness along
left SCM muscle
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally, no inspiratory or expiratory wheezes
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
LAB RESULTS ON ADMISSION:

___ 05:07PM BLOOD WBC-13.1* RBC-5.12 Hgb-13.9 Hct-43.9 
MCV-86 MCH-27.1 MCHC-31.7* RDW-14.3 RDWSD-44.6 Plt ___
___ 05:07PM BLOOD Glucose-85 UreaN-12 Creat-0.9 Na-141 
K-4.5 Cl-104 HCO3-23 AnGap-14
___ 05:07PM BLOOD ALT-17 AST-18 LD(LDH)-297* AlkPhos-83 
TotBili-0.3
___ 09:20AM BLOOD Calcium-9.5 Phos-2.7 Mg-2.1

PERTINENT INTERVAL LABS:

___ 09:20AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 09:20AM BLOOD Trep Ab-NEG
___ 09:20AM BLOOD HIV Ab-NEG
___ 09:20AM BLOOD HIV1 VL-PND
___ 09:51PM BLOOD Lactate-0.7

DISCHARGE LABS:

___ 06:00AM BLOOD WBC-9.6 RBC-4.55 Hgb-12.2 Hct-39.2 MCV-86 
MCH-26.8 MCHC-31.1* RDW-14.1 RDWSD-44.3 Plt ___
___ 09:20AM BLOOD Glucose-119* UreaN-11 Creat-0.7 Na-141 
K-4.5 Cl-103 HCO3-24 AnGap-14

MICROBIOLOGY:

___ 10:00 am THROAT CULTURE

   VIRAL CULTURE (Preliminary):    NO VIRUS ISOLATED. 

___ 5:51 am THROAT CULTURE

   R/O Beta Strep Group A (Pending): 

___ 10:10 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
 
___ 9:40 pm BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. 

___ 9:48 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING

CXR ___: Right upper lobe pneumonia.  Possible second focus of 
pneumonia in the left lower lobe. 

CXR ___: Mostly resolved multifocal pulmonary opacities; 
sequela of minor resolved chemical aspiration pneumonitis could 
be considered in the appropriate setting. 
  

 
Brief Hospital Course:
___ year old previously healthy future ___ with ongoing 
vaping pen use presenting with acute pharyngitis and dizziness, 
found to have leukocytosis, subtle multifocal opacities on CXR; 
also with high risk sexual behavior found to have chlamydia.

# Acute pharyngitis
Patient presented with leukocytosis and tachycardia with 
localizing symptoms of pharyngitis and dyspnea. Exam notable for 
bilateral tonsillar swelling but no exudate. No difficulty 
opening mouth, no change in voice, no drooling. CT neck was not 
obtained given bilateral swelling, well appearance. Suspect that 
acute pharyngitis is most likely secondary to viral etiology, 
although given initial presentation with questionable pulmonary 
infiltrates, leukocytosis, and initial sinus tachycardia to 110, 
opted to treat with antibiotics [although she did receive some 
prednisone previously and this could have contributed to 
leukocytosis]. She was initially on amox/clav, then transitioned 
to cefpodoxime + doxycycline when chlamydia returned positive 
(as doxycycline 100 mg BID x 7 days would cover this- and 
cefpoxodime would cover typical organisms for ?pneumonia and 
pharyngitis). 

Studies were sent, including monospot (negative), throat 
cultures (pending), HIV1 Ab (negative), and HIV1 VL (given high 
risk sexual behavior, considered acute HIV on differential). She 
had no other upper respiratory symptoms. Flu A/B was negative. 
Syphilis testing was negative, as was gonorrhea, and oral 
gonorrhea swab was sent at ___ and reportedly 
negative per patient. Considered CMV, but this is typically 
characterized by prolonged fever, and mild pharyngitis. 
Considered HSV, but no oral ulcers. With antibiotic treatment, 
she was able to eat/swallow, leukocytosis resolved, and patient 
overall felt better and was safe for discharge.

# Pulmonary infiltrates ?community acquired pneumonia
Intial CXR read as right upper lobe pneumonia, possible second 
focus of pneumonia in the left lower lobe, and radiology 
reported air bronchograms. However, on repeat imaging the next 
day, it was noted that multifocal pulmonary opacities had mostly 
resolved, which is not entirely compatible with diagnosis of 
pneumonia. She does have vaping use, but reports that this was 
much less than prior. She has no risk factors for septic 
pulmonary emboli and these would not resolve so quickly. She 
denies aspiration. Overall this is not entirely clear, however 
her shortness of breath and chest pain improved with 
antibiotics, hence opted to finish the course.

# Lightheadedness, near syncope
# Sinus tachycardia
Suspect in setting of dehydration as patient reported being 
unable to eat when she had sore throat. With antibiotics, she 
was able to eat/drink and was ambulating the hallways without 
difficulty. Orthostatics were obtained, and were negative. Given 
sinus tachycardia and report of shortness of breath considered 
PE, however, with possible alternate diagnosis as above, did not 
pursue CTA- particularly as patient improved with antibiotics 
(although does have IUD).

# Chlamydia
Patient found positive for chlamydia, treated with doxycycline 
100 mg BID x 7 days as above. Counseled to avoid sex for 7 days. 
Rest of STD testing- syphilis negative, hepatitis B negative but 
nonimmune, gonorrhea negative, HIV1 Ab negative but viral load 
pending. Counseled on safe sex practices. HcG negative. She will 
require re-testing in 3 months. 

# Suspected sleep apnea
Patient noted to snore while in house, and reports snoring at 
dorm room as well, feeling unrefreshed, and falling asleep in 
classes. Suspect she may have obstructive sleep apnea, and 
recommend consideration of outpatient sleep study.

# Obesity
Discussed diet and exercise- patient notes that she has already 
been losing weight since moving to ___ as she walks more; 
encouraged her to continue these efforts and commended her on 
increasing activity. Consider checking Hgb A1c as outpatient.

# History of trauma
Seen by CVPR, provided with list of treaters and agencies who 
specialize in trauma and sexual
assault as well as CVPR as potential resources for her. Would 
benefit from trauma informed care.

TRANSITIONAL ISSUES:
=====================
[] Cefpodoxime 400 mg BID + doxycycline 100 mg BID x 7 days 
ending ___
[] Continue to encourage PO fluid intake
[] HIV viral load and throat cultures pending at time of 
discharge
[] Blood cultures pending at time of discharge
[] Retest for chlamydia in 3 months
[] Consider outpatient sleep study
[] Continue to counsel on diet, exercise, consider checking A1c 
(one fasting glucose of 119)
[] Trauma informed care, please help patient find a therapist

***** After patient was discharged, I received call from 
microbiology lab about 1 set of positive bcx in aerobic bottle 
only growing GPC in pairs and clusters, ~48 hours after drawn. 
Called patient and her father (she had given me permission) to 
discuss results, that it could be true infection versus 
contaminant. Discussed that she should go to the ED immediately 
should she feel unwell and reviewed warning signs including but 
not limited to fevers, chills, sweats, increased palpitations, 
but that it is not unreasonable to watch and see what the 
cultures will speciate. I attempted to arrange for another set 
of blood cultures, but her student health center was closed and 
she had no PCP. We did discuss that an alternative option would 
be to go to ___ (preferably BI affiliated) and perhaps labs could 
be drawn there, but I was unsure of the cost. I provided her 
with my cell phone number for contact purposes. All questions 
were answered and I will be in contact *****
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO BID 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*24 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*12 Tablet Refills:*0 
3.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pharyngitis
Community acquired pneumonia
Chalmydia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

You were here because you had a sore throat, felt warm, had a 
cough, shortness of breath, and felt lightheaded. While you were 
here, we found some subtle findings on your initial chest x ray 
that made us concerned for a pneumonia, associated with an 
elevated white blood cell count. We sent out multiple tests for 
your sore throat, and none of them have returned positive so 
far. We are still waiting for a throat culture. On repeat chest 
x ray the opacities had resolved, hence it is not entirely sure 
that you actually had a pneumonia.

We also performed STD screening and found that you have 
chlamydia, which is fairly common in sexually active young 
ladies. We would continue to recommend barrier method of 
protection. As you felt better after antibiotics, with 
resolution of your shortness of breath, chest pain, we decided 
to treat both the possible pneumonia and chlamydia with 
antibiotics- you will be discharged on total 7 days of 
cefpodoxime (which would cover typical pneumonia organisms and 
typical bacterial sore throat organisms), and doxycycline (which 
would cover atypical pneumonia organisms as well as chlamydia). 
You should avoid sex for 7 days after completing the 
antibiotics, and you will need to be retested in 3 months. We 
are awaiting a specific HIV test and will be in touch with the 
results.

At time of discharge, you were no longer dizzy, and you were 
ambulating the hallways without difficulty. You shared that you 
felt much better.

We recommend that you establish care with a primary care doctor 
who will be able to follow up with your care. We think you would 
be a good fit for ___, but this would have to be 
initiated by you.

Please take care, we wish you the very best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___